US08106190B2
A chloroform solution of 4-tert-butyl-2-fluorophenol, 2-dimethylaminopyridine and 2,6-lutidine, cooled to −78° C., was treated with trifluoromethanesulfonic acid anhydride to obtain 4-tert-butyl-2-fluorophenyl trifluoromethanesulfonate. Under an atmosphere of carbon monoxide, a DMSO solution of the resulting sulfonate, methanol, triethylamine, palladium acetate and diphenylphosphinopropane was allowed to undergo the reaction at 60° C. By post-treating the reaction liquid, methyl 4-tert-butyl-2-fluorobenzoate was obtained.

reactant | 4-tert-butyl-2-fluorophenol | C(C)(C)(C)C1=CC(=C(C=C1)O)F | C10H13FO
reactant | 2-dimethylaminopyridine | CN(C1=NC=CC=C1)C | C7H10N2
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-tert-butyl-2-fluorophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)(C)C)F)(F)F | C11H12F4O3S
